US03962274
To a solution of 8 parts of 1-(2-chloroethyl)-2-methylimidazole (U.S. Pat. No. 3,882,136) in 200 parts of N,N-dimethylformamide is added a slurry of 5 parts of sodium azide in 100 parts of N,N-dimethylformamide. The resultant mixture is stirred for 2 hours at approximately 65°, then cooled and thereupon diluted with 600 parts of water. Sufficient potassium carbonate is added to insure basicity. The mixture thus obtained is extracted with chloroform. The chloroform extract is dried over anhydrous magnesium sulfate and stripped of solvent by vacuum distillation, affording 1-(2-azidoethyl)-2-methylimidazole as the residue. The product has the formula ##SPC4##

reactant | 1-(2-chloroethyl)-2-methylimidazole | ClCCN1C(=NC=C1)C | C6H9ClN2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-(2-azidoethyl)-2-methylimidazole | N(=[N+]=[N-])CCN1C(=NC=C1)C | C6H9N5
